US07141596B2
Step 3. tert-Butyl 2-[(1S)-1-[(tert-butoxycarbonyl)amino]-2-(3-chloro-4-iodophenyl)-ethyl]-5phenyl-1H-imidazole-1-carboxylate (1a)
tert-Butyl [(1S)-2-(3-chloro-4-iodophenyl)-1-(5-phenyl-1H-imidazol-2-yl)ethyl]-carbamate (420 mg, 0.80 mmol) in tetrahydrofuran (100 mL) was treated with 1 N aqueous sodium hydroxide (20 mL). After five minutes di-tert-butyldicarbonate (1.05 g, 4.81 mmol) was added at rt. The solution stirred at 35° C. for 2 h. The solution was cooled to rt and then diluted with ethyl acetate (400 mL). The organic phase was separated and washed with aqueous hydrochloric acid (1.0 M, 200 mL), dried over sodium sulfate, and concentrated in vacuo. Purification by silica gel chromatography (5–10% ethyl acetate:hexanes). afforded product as a white foam (320 mg, 64%). LCMS found for C27H32ClIN3O4 (M+H)+: m/z=624.

reactant | tert-Butyl [(1S)-2-(3-chloro-4-iodophenyl)-1-(5-phenyl-1H-imidazol-2-yl)ethyl]-carbamate | 0.80 mmol, 420 mg | ClC=1C=C(C=CC1I)C[C@@H](C=1NC(=CN1)C1=CC=CC=C1)NC(OC(C)(C)C)=O | C22H23ClIN3O2
reactant | sodium hydroxide | 1 N, 20 mL | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 4.81 mmol, 1.05 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 2-[(1S)-1-[(tert-butoxycarbonyl)amino]-2-(3-chloro-4-iodophenyl)-ethyl]-5phenyl-1H-imidazole-1-carboxylate | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC(=C(C=C1)I)Cl)C=1N(C(=CN1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C27H31ClIN3O4
